US04496564
To 2-guanidino-4-chloromethylthiazole hydrochloride (3.86 g.) and methyl 3-mercaptopropionate (3.0 g.) in EtOH (45 ml.) at 0° was added sodium hydroxide (1.6 g.) in water (15 ml.) over 15 minutes. The reaction mixture was allowed to attain room temperature and to stand for 18 hours. The solution was poured into water and extracted with EtOAc. The extract was washed with aqueous sodium hydroxide solution, water, dried and evaporated to give methyl 3-(2-guanidinothiazol-4-yl-methylthio)propionate as a yellow oil which was used without further purification.

reactant | 2-guanidino-4-chloromethylthiazole hydrochloride | 3.86 g | Cl.N(C(=N)N)C=1SC=C(N1)CCl
reactant | methyl 3-mercaptopropionate | 3.0 g | SCCC(=O)OC | C4H8O2S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | EtOH | 45 ml | CCO | C2H6O
solvent | water | 15 ml | O | H2O
product | methyl 3-(2-guanidinothiazol-4-yl-methylthio)propionate | N(C(=N)N)C=1SC=C(N1)CSCCC(=O)OC | C9H14N4O2S2
